US06037356
2. 3-(3-Chlorobenzylsulfonyl)amino-6-methyl-1-(tert-butoxycarbonylmethyl)-2-pyridinone
The title compound was prepared from 3-chlorobenzylsulfonyl chloride (113 mg, 0.5 mmol), as prepared in the preceding step, and 3-amino-6-methyl-1-(tert-butoxycarbonylmethyl)-2-pyridinone (120 mg, 0.5 mmol), as prepared in step 3 of Example 1, using the procedure in step 4 of Example 1, as a white solid (180 mg, 84%). 1H-NMR (300 MHz, CDCl3) δ7.37 (d, J=7.6 Hz, 1H), 7.30 (m, 4H), 7.20 (s, 1H), 6.02 (d, J=7.7 Hz, 1H), 4.78 (s, 2H), 4.27 (s, 2H), 2.27 (s, 3H), 1.50 (s, 9H).

reactant | 3-chlorobenzylsulfonyl chloride | 0.5 mmol, 113 mg | ClC=1C=C(CS(=O)(=O)Cl)C=CC1 | C7H6Cl2O2S
reactant | 3-amino-6-methyl-1-(tert-butoxycarbonylmethyl)-2-pyridinone | 0.5 mmol, 120 mg | NC=1C(N(C(=CC1)C)CC(=O)OC(C)(C)C)=O | C12H18N2O3
product | 3-(3-Chlorobenzylsulfonyl)amino-6-methyl-1-(tert-butoxycarbonylmethyl)-2-pyridinone | ClC=1C=C(CS(=O)(=O)NC=2C(N(C(=CC2)C)CC(=O)OC(C)(C)C)=O)C=CC1 | C19H23ClN2O5S
